US05453427
Dimethyl acetylsuccinate (188 g, 1 mol) is dissolved in sodiummethylate/methanol (1.1 mol in 500 ml) and added within 30 minutes to a solution of acetamidine hydrochloride (104 g, 1.1 mol) at 60° C. with stirring. After refluxing the mixture for 14 hours, the precipitated salt is removed by filtration and the filtrate is evaporated to dryness under reduced pressure. The resulting solid is suspended in acetone, filtered and dried to give (2,6-dimethyl-4-hydroxy-5-pyrimidinyl) acetic acid crystalline product (170 g, 93%).

reactant | Dimethyl acetylsuccinate | 1 mol, 188 g | C(C)(=O)C(C(=O)OC)CC(=O)OC | C8H12O5
reactant | sodiummethylate methanol | 1.1 mol, 500 ml | C[O-].[Na+].CO
reactant | acetamidine hydrochloride | 1.1 mol, 104 g | Cl.C(C)(=N)N
product | (2,6-dimethyl-4-hydroxy-5-pyrimidinyl) acetic acid | 170 g, 93% | CC1=NC(=C(C(=N1)O)CC(=O)O)C | C8H10N2O3
